US06500803B1
c) (S)-2-Allyloxycarbonylamino-3-(4-carbamimidoylphenyl)propionic Acid Hydrochloride (Alloc-pAph-OH Hydrochloride)
17 g (0.048 mol) of (S)-2-allyloxycarbonylamino-3-(4-carbamimidoylphenyl)propionic acid ethyl ester hydrochloride were treated with 400 ml of half-concentrated hydrochloric acid for 3 h at RT. The solvent was evaporated (<30° C.) and the residue was stirred with ether. Yield=15 g (95%). MS=292.2 (M+1)+.

reactant | (S)-2-allyloxycarbonylamino-3-(4-carbamimidoylphenyl)propionic acid ethyl ester hydrochloride | 0.048 mol, 17 g | Cl.C(C)OC([C@H](CC1=CC=C(C=C1)C(N)=N)NC(=O)OCC=C)=O
solvent | hydrochloric acid | 400 ml | Cl | ClH
product | (S)-2-Allyloxycarbonylamino-3-(4-carbamimidoylphenyl)propionic Acid Hydrochloride | Cl.C(C=C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C(N)=N | InChI=1S/C14H17N3O4.ClH/c1-2-7-21-14(20)17-11(13(18)19)8-9-3-5-10(6-4-9)12(15)16;/h2-6,11H,1,7-8H2,(H3,15,16)(H,17,20)(H,18,19);1H/t11-;/m0./s1
